US07713994B2
N-(4-Hydroxy-6-{[(6-iodo-1,3-dioxo-2,3-dihydro-1H-isoquinolin-4-ylidenemethyl)-amino]-methyl}-pyridin-3-yl)-propionamide
A mixture of 4-{[(5-Amino-4-hydroxy-pyridin-2-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione (332 mg, 0.761 mmole), 6 mL of dimethylacetamide is stirred, then propionyl chloride (705 mg, 7.61 mmole) is added and the reaction mixture stirred for one hour. The reaction mixture is evaporated to dryness, and then stirred overnight with a saturated aqueous sodium bicarbonate solution, the solid is filtered, washed well with water and dried to give a yellow solid, 46 mg, (11%); m.p. 210-18° C. dec; MS (ES+): m/z 492.9 (M+H).

reactant | 4-{[(5-Amino-4-hydroxy-pyridin-2-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione | 0.761 mmole, 332 mg | NC=1C(=CC(=NC1)CNC=C1C(NC(C2=CC=C(C=C12)I)=O)=O)O | C16H13IN4O3
reactant | propionyl chloride | 7.61 mmole, 705 mg | C(CC)(=O)Cl | C3H5ClO
solvent | dimethylacetamide | 6 mL | CC(=O)N(C)C | C4H9NO
product | N-(4-Hydroxy-6-{[(6-iodo-1,3-dioxo-2,3-dihydro-1H-isoquinolin-4-ylidenemethyl)-amino]-methyl}-pyridin-3-yl)-propionamide | OC1=C(C=NC(=C1)CNC=C1C(NC(C2=CC=C(C=C12)I)=O)=O)NC(CC)=O | C19H17IN4O4
